US04929634
Alpha-nitro acetophenone (5.7 g, 0.0345 mol) is taken up in 100 mL toluene and 4.6 g (0.0345 mol) of amino acetaldehyde diethyl acetal is added. The reactants are put into a 250 mL RB flask fitted with a Dean-Stark trap. The trap is filled with 4A molecular sieves and the mixture is heated at reflux for 18 hours. The toluene is removed in vacuo to give 8.36 g of α-(2,2-diethoxyethylamino)-β-nitrostyrene as a brown oil. To this oil is added 50 mL of concentrated HCl. As the flask is swirled the oil turns to a yellow suspension. After 10 minutes the solid is filtered to give 2.48 g of a yellow solid. Recrystallization from ether/ethylacetate/hexane gives the product as two fractions, 2.08 g of m.p. 190°-192° C., (31%).

reactant | Alpha-nitro acetophenone | 0.0345 mol, 5.7 g | [N+](=O)([O-])CC(=O)C1=CC=CC=C1 | C8H7NO3
reactant | amino acetaldehyde diethyl acetal | 0.0345 mol, 4.6 g | C(C)OC(CN)OCC | C6H15NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | α-(2,2-diethoxyethylamino)-β-nitrostyrene | 8.36 g | C(C)OC(CNC(=C[N+](=O)[O-])C1=CC=CC=C1)OCC | C14H20N2O4
